US08809333B2
To a vial containing ethyl (2R)-4-(4-iodo-1H-pyrazol-1-yl)-2-methyl-2-(methylsulfonyl)butanoate (500 mg, 1.25 mmol, 1.0 eq), cyclohex-1-en-1-ylboronic acid (205 mg, 1.62 mmol, 1.3 eq), cesium fluoride (759 mg, 5.00 mmol, 4 eq) and Pd(PPh3)4 (100 mg 0.087 mmol, 0.07 eq) was added THF (5 mL). The vial was sealed and the mixture was heated at 60° C. overnight. The mixture was filtered through celite, and eluted with EtOAc. The filtrate was absorbed onto silica gel and purified by flash chromatography, eluting with 0-20% EtOAc/Hpt then 5% MeOH/EtOAc to give ethyl (2R)-4-[4-(cyclohex-1-en-1-yl)-1H-pyrazol-1-yl]-2-methyl-2-(methylsulfonyl)butanoate (370 mg, 83.6% yield). LC-MS M+H+355.1.

reactant | ethyl (2R)-4-(4-iodo-1H-pyrazol-1-yl)-2-methyl-2-(methylsulfonyl)butanoate | 1.25 mmol, 500 mg, 1.0 eq | IC=1C=NN(C1)CC[C@](C(=O)OCC)(S(=O)(=O)C)C | C11H17IN2O4S
reactant | cyclohex-1-en-1-ylboronic acid | 1.62 mmol, 205 mg, 1.3 eq | C1(=CCCCC1)B(O)O | C6H11BO2
reactant | cesium fluoride | 5.00 mmol, 759 mg, 4 eq | [F-].[Cs+]
catalyst | Pd(PPh3)4 | 0.087 mmol, 100 mg, 0.07 eq | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | ethyl (2R)-4-[4-(cyclohex-1-en-1-yl)-1H-pyrazol-1-yl]-2-methyl-2-(methylsulfonyl)butanoate | 370 mg, 83.6% yield | C1(=CCCCC1)C=1C=NN(C1)CC[C@](C(=O)OCC)(S(=O)(=O)C)C | C17H26N2O4S
